US04333942
9.0 g of 1-methyl-4-phenoxy-4-phenylpiperidine are added in portions of 100 ml of chloroformic acid ethyl ester at 80° C.; severe foaming is observed during this addition. When the addition has ended, the mixture is boiled under reflux for 3 hours, excess chloroformic acid ethyl ester is distilled off in vacuo, and 120 ml of water and 15 ml of concentrated ammonia are added to resulting solid residue. This mixture is stirred thoroughly, and the precipitate is filtered off and rinsed with water. The 1-ethoxycarbonyl-4-phenoxy-4-phenylpiperidine (m.p. 117° to 118° C., from ethanol) thus obtained is boiled under reflux with a solution of 15 g of potassium hydroxide in 150 ml of n-butanol for 4 hours; after cooling, 300 ml of water are added to the solution, and the obtained mixture is extracted twice with diethyl ether. The combined organic phases are dried over sodium sulfate and concentrated. The title compound remains as a brownish oil. The hydrochloride melts at 192° C. (from ethanol).

reactant | 1-methyl-4-phenoxy-4-phenylpiperidine | 9.0 g | CN1CCC(CC1)(C1=CC=CC=C1)OC1=CC=CC=C1 | C18H21NO
reactant | chloroformic acid ethyl ester | 100 ml | C(C)OC(=O)Cl | C3H5ClO2
product | 1-ethoxycarbonyl-4-phenoxy-4-phenylpiperidine | C(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC1=CC=CC=C1 | C20H23NO3
